US08420759B2
Activated charcoal (130 g), which had been exposed to a stream of fermentor off-gas, was placed into a 1000 mL flask along with a stir bar. Cyclohexane (563 mL) was added to the flask and the slurry was agitated for 2 hours. Vacuum was applied (100 mbar) via an in-line cryogenic trap (30 mL capacity, immersed in liq. nitrogen). Four fractions were collected and combined to yield an isoprene/cyclohexane solution (2.1 wt % isoprene, total volume=53.1 g). This solution was vacuum distilled at 100 mbar and a new isoprene/cyclohexane solution was collected (yield=10.1 g), which was dried over 3 A molecular sieves. GC analysis of this solution indicated an isoprene content of 7.7 wt. %.

reactant | charcoal | 130 g | C | CH4
reactant | Cyclohexane | 563 mL | C1CCCCC1 | C6H12
product | isoprene cyclohexane | C=CC(C)=C.C1CCCCC1 | InChI=1S/C6H12.C5H8/c1-2-4-6-5-3-1;1-4-5(2)3/h1-6H2;4H,1-2H2,3H3
